US05624601
Preparation of (4-chlorophenyl) trans-4-(4-(4-pentenyl)-4-silacyclohexyl)benzoate
The general procedure of Example 3 was repeated using 4-chlorophenol and 4-(4-phenyl-4-(4-pentenyl)-4-silacyclohexyl)benzoic acid, thereby obtaining the intended product.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 4-(4-phenyl-4-(4-pentenyl)-4-silacyclohexyl)benzoic acid | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1=CC=C(C(=O)O)C=C1)CCCC=C | C23H28O2Si
product | (4-chlorophenyl) trans-4-(4-(4-pentenyl)-4-silacyclohexyl)benzoate | C(CCC=C)[Si@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OC2=CC=C(C=C2)Cl)C=C1 | C23H27ClO2Si
